US08466289B2
Synthesis of Intermediate 7-(4-Bromo-2-fluoro-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (I-4a)
HBr in acetic acid (20 mL) was added to 1-benzyl-7-(4-bromo-2-fluoro-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (I-1f: 1.4 g) and the resulting mixture was stirred at room temperature for 2 hours. The reaction was monitored by TLC (100% ethylacetate). The reaction mixture was partitioned between ice water and ethyl acetate. The organic layer was concentrated to afford the crude product. Purification by column chromatography on silica gel (65% ethylacetate in hexane) afforded 600 mg of the product (54.5% yield).

reactant | HBr | Br | BrH
reactant | 1-benzyl-7-(4-bromo-2-fluoro-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 1.4 g | C(C1=CC=CC=C1)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)Br)F)[N+](=O)[O-] | C21H18BrFN4O3
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 7-(4-Bromo-2-fluoro-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 600 mg, 54.5% yield | BrC1=CC(=C(C=C1)NC=1C(=C2N(C(C1C)=O)CCN2)[N+](=O)[O-])F | C14H12BrFN4O3
